US08304557B2
tert-butyl {2-chloro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate
5-Bromo-2-nitropyridine (14.0 g, 69.0 mmol) was added to a mixture of 3-amino-4-chlorophenol (9.44 g, 65.7 mmol), cesium carbonate (32.2 g, 99.0 mmol) and N,N-dimethylformamide (70 mL) at 0° C., and the mixture was stirred at room temperature for 17 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dissolved in acetonitrile (100 mL). di-tert-Butyl dicarbonate (24.0 g, 110 mmol), 4-dimethylaminopyridine (8.04 g, 65.8 mmol) and acetonitrile (150 mL) were added, and the mixture was stirred at room temperature for 30 min. tert-Butyl alcohol (11.0 mL, 115 mmol) was added to the reaction mixture, and the mixture was stirred at 80° C. for 68 hr. The reaction solution was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=100/0→80/20) to give the title compound (13.0 g, 54%) as a pale-yellow oil.

reactant | 5-Bromo-2-nitropyridine | 69.0 mmol, 14.0 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 3-amino-4-chlorophenol | 65.7 mmol, 9.44 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | cesium carbonate | 99.0 mmol, 32.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | di-tert-Butyl dicarbonate | 110 mmol, 24.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tert-Butyl alcohol | 115 mmol, 11.0 mL | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
catalyst | 4-dimethylaminopyridine | 65.8 mmol, 8.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | tert-butyl {2-chloro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 13.0 g, 54% | ClC1=C(C=C(C=C1)OC=1C=NC(=CC1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C16H16ClN3O5
